US05756507
Step 4.1B [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-nitrophenyl)ethyl]amine
To a stirred solution of N-[2-[2-(3,4-dimethoxy-phenyl)-1H-indol-3-yl]ethyl]-2-(4-nitrophenyl)acetamide (90 mg in 3 mL dry tetrahydrofuran) was added 0.79 mL of a 1M solution of borane in tetrahydrofuran and the mixture heated slowly to reflux on an oil bath. After 2 hours the mixture was cooled to room temperature and the excess borane quenched by the careful addition of methanol. The mixture was concentrated to half-volume, treated with N,N-dimethylethanolamine (0.60 mL) and heated to reflux on an oil bath. After 3 hours the mixture was cooled to room temperature and concentrated in vacuo. Purification by flash chromatography on silica gel (methylene chloride:methanol, 96:4) gave the title compound (79 mg).

reactant | N-[2-[2-(3,4-dimethoxy-phenyl)-1H-indol-3-yl]ethyl]-2-(4-nitrophenyl)acetamide | 3 mL, 90 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCNC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C26H25N3O5
reactant | borane | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]-[2-(4-nitrophenyl)ethyl]amine | 79 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCNCCC1=CC=C(C=C1)[N+](=O)[O-] | C26H27N3O4
